US06825180B2
A mixture of (R)-3-(5-acetoxyhexyl)-6-amino-1-methyluracil (250 mg, 0.88 mmol), 2,4-pentanedione (2 ml, 19.5 mmol) and xylenes (3 ml) was heated to 145° C. for 18 hours. The mixture was concentrated under reduced pressure followed by coevaporation with toluene (2×5 ml) to remove the remaining 2,4-pentanedione to provide crude (R)-3-(5-acetoxyhexyl)-1,5,7-trimethylpyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione.

reactant | (R)-3-(5-acetoxyhexyl)-6-amino-1-methyluracil | 0.88 mmol, 250 mg | C(C)(=O)O[C@@H](CCCCN1C(N(C(=CC1=O)N)C)=O)C | C13H21N3O4
reactant | 2,4-pentanedione | 19.5 mmol, 2 ml | CC(CC(C)=O)=O | C5H8O2
product | (R)-3-(5-acetoxyhexyl)-1,5,7-trimethylpyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | C(C)(=O)O[C@@H](CCCCN1C(N(C2=C(C1=O)C(=CC(=N2)C)C)C)=O)C | C18H25N3O4
